US08871796B2
3-(3-{1-Ethenyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine (1.3 g, 3.2 mmol) was dissolved in 6 mL of DMF and di-tert-butyldicarbonate (1.4 g, 6.4 mmol) was added. The mixture was stirred at ambient temperature for 18 h. The mixture was diluted with EtOAc and washed with water and brine. The organic phase was dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The residue was chromatographed on a 12 g silica gel column using 0-30% EtOAc:hexanes over 16 min at 30 mL/min. The product-containing fractions were combined and the solvents were removed under reduced pressure to give tert-butyl {3-[3-(1-ethenyl-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl)phenyl]oxetan-3-yl}carbamate as a foam. Calcd (M+1)+: 502.5. Found: 502.2

reactant | 3-(3-{1-Ethenyl-5-[4-(trifluoromethyl)phenoxy]-1H-pyrazol-3-yl}phenyl)oxetan-3-amine | 3.2 mmol, 1.3 g | C(=C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)N | C21H18F3N3O2
reactant | di-tert-butyldicarbonate | 6.4 mmol, 1.4 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl {3-[3-(1-ethenyl-5-(4-trifluoromethylphenoxy)-1H-pyrazol-3-yl)phenyl]oxetan-3-yl}carbamate | C(=C)N1N=C(C=C1OC1=CC=C(C=C1)C(F)(F)F)C=1C=C(C=CC1)C1(COC1)NC(OC(C)(C)C)=O | C26H26F3N3O4
